US07910592B2
In a dry flask were placed 2-(3-iodo-4-methoxyphenyl)-2-methylpropan-1-ol (180.0 mg, 0.584 mmol), [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II).CH2Cl2 (47.7 mg, 0.0584 mmol), KOAc (115 mg, 1.17 mmol), and DMSO (8 mL). Bis(pinacolato)diboron (185.6 mg, 0.73 mmol) was dissolved in THF (340 μL) and added to the reaction. The reaction was degassed with N2 and heated to 40° C. for 1 hour, then 60° C. for 1 h, then at 80° C. for 12 h. The reaction was then cooled to room temperature, diluted with EtOAc (75 mL), and washed with water (3×25 mL) and brine (25 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (5 to 100% EtOAc/hexanes) afforded 2-[4-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2-methylpropan-1-ol. Rf=0.25 (40% EtOAc/hexanes). 1H NMR (CDCl3, 600 MHz) δ 7.64 (d, J=2.6 Hz, 1H), 7.40 (dd, J=8.6, 2.7 Hz, 1H), 6.83 (d, J=8.7 Hz, 1H), 3.82 (s, 3H), 3.59 (d, J=6.6 Hz, 2H), 1.35 (s, 12H), 1.32 (s, 6H).

reactant | 2-(3-iodo-4-methoxyphenyl)-2-methylpropan-1-ol | 0.584 mmol, 180.0 mg | IC=1C=C(C=CC1OC)C(CO)(C)C | C11H15IO2
reactant | CH2Cl2 | 0.0584 mmol, 47.7 mg | C(Cl)Cl | CH2Cl2
reactant | KOAc | 1.17 mmol, 115 mg | CC(=O)[O-].[K+]
reactant | Bis(pinacolato)diboron | 0.73 mmol, 185.6 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | THF | 340 μL | C1CCOC1 | C4H8O
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | 2-[4-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2-methylpropan-1-ol | COC1=C(C=C(C=C1)C(CO)(C)C)B1OC(C(O1)(C)C)(C)C | C17H27BO4
